US07713994B2
(4E)-6-Bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (50 mg, 0.18 mmol) 4-(3-dimethylamino-propyl)-phenylamine hydrochloride (0.40 mmol) were stirred in N,N-dimethylformamide (1 mL) and triethylamine (140 μL) at 78° C. The reaction mixture is quenched by the addition of water. The solid material is then collected, washed with water, and then dried under vacuum to give (4Z)-6-bromo-4-[({4-[3-(dimethylamino)propyl]phenyl}amino)methylene]isoquinoline-1,3(2H,4H)-dione (58 mg, 75%) as a golden solid.

reactant | (4E)-6-Bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.18 mmol, 50 mg | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | triethylamine | 140 μL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-bromo-4-[({4-[3-(dimethylamino)propyl]phenyl}amino)methylene]isoquinoline-1,3(2H,4H)-dione | 58 mg, 75% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)CCCN(C)C | C21H22BrN3O2
